US06646150B1
Production of (2S,3 S)-3-Amino-1,1,1-trifluoro-4-(4-hydroxy-phenyl)-2-butanol (Compound I)
N-[(1S,2S)-1-(4-Benzyloxyphenyl)methyl-3,3,3-trifluoro-2-hydroxypropyl]carbamic acid benzyl ester (2.19 g, 4.8 mmol) was dissolved in ethyl acetate (30 ml), and thereto was added 20% palladium hydroxide (1 g). The mixture was stirred at room temperature for 2 hours under hydrogen atmosphere. The catalyst was removed by filtration, and the filtrate was concentrated under reduced pressure to give the desired compound (1.11 g, yield: quantitatively) as an oil.

reactant | N-[(1S,2S)-1-(4-Benzyloxyphenyl)methyl-3,3,3-trifluoro-2-hydroxypropyl]carbamic acid benzyl ester | 4.8 mmol, 2.19 g | C(C1=CC=CC=C1)OC(N[C@H]([C@@H](C(F)(F)F)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C25H24F3NO4
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium hydroxide | 1 g | [OH-].[Pd+2].[OH-]
product | (2S,3 S)-3-Amino-1,1,1-trifluoro-4-(4-hydroxy-phenyl)-2-butanol | N[C@H]([C@@H](C(F)(F)F)O)CC1=CC=C(C=C1)O | C10H12F3NO2
